US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the phenylthioacetyloxymethyl difluoromethanesulfonic acid sodium salt (2.5 g) produced in <1> of Synthesis Example 6 above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt, and thus 3.41 g (yield 98%) of phenylthioacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 13 was obtained. The structure of the product was confirmed by 1H-NMR (see FIG. 12).

reactant | phenylthioacetyloxymethyl difluoromethanesulfonic acid sodium salt | 2.5 g | [Na+].C1(=CC=CC=C1)CC(=S)OCC(S(=O)(=O)[O-])(F)F
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt | [Na].FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | phenylthioacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.41 g, yield 98% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(CC1=CC=CC=C1)=S)(S(=O)(=O)O)F | InChI=1S/C19H16S.C10H10F2O4S2/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;11-10(12,18(13,14)15)7-16-9(17)6-8-4-2-1-3-5-8/h1-15,19H;1-5H,6-7H2,(H,13,14,15)/p+1
